US09382231B2
Step 2. Ethyl 1-{3-(cyanomethyl)-1-[2,5-difluoro-4-({[(1S)-2,2,2-trifluoro-1-methylethyl]amino}carbonyl)phenyl]azetidin-3-yl}-3′-methyl-1H,1′H-4,4′-bipyrazole-3-carboxylate
To a microwave vial were charged with tert-butyl alcohol (1.2 mL), and water (1.2 mL), cesium fluoride (683 mg, 4.50 mmol), ethyl 4-bromo-1-{3-(cyanomethyl)-1-[2,5-difluoro-4-({[(1S)-2,2,2-trifluoro-1-methylethyl]amino}carbonyl)phenyl]azetidin-3-yl}-1H-pyrazole-3-carboxylate (725 mg, 1.28 mmol) and 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (401 mg, 1.93 mmol), followed by Pd-127 (49 mg, 0.064 mmol) (from Johnson Mathew). The reaction mixture was heated at 85° C. for 48 h. The reaction was cooled to room temperature, diluted with water and ethyl acetate. The aqueous layer was extracted with ethyl acetate. The organic layer was dried over Na2SO4, concentrated. The resulting residue was purified with flash chromatography (eluting with 30-100% ethyl acetate in hexanes) to give the desired product as an oil. LCMS calculated for C25H25F5N7O3 (M+H)+: m/z=566.2. Found: 566.0.

reactant | tert-butyl alcohol | 1.2 mL | C(C)(C)(C)O | C4H10O
reactant | cesium fluoride | 4.50 mmol, 683 mg | [F-].[Cs+]
reactant | ethyl 4-bromo-1-{3-(cyanomethyl)-1-[2,5-difluoro-4-({[(1S)-2,2,2-trifluoro-1-methylethyl]amino}carbonyl)phenyl]azetidin-3-yl}-1H-pyrazole-3-carboxylate | 1.28 mmol, 725 mg | BrC=1C(=NN(C1)C1(CN(C1)C1=C(C=C(C(=C1)F)C(=O)N[C@H](C(F)(F)F)C)F)CC#N)C(=O)OCC | C21H19BrF5N5O3
reactant | 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 1.93 mmol, 401 mg | CC1=NNC=C1B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 1.2 mL | O | H2O
product | Ethyl 1-{3-(cyanomethyl)-1-[2,5-difluoro-4-({[(1S)-2,2,2-trifluoro-1-methylethyl]amino}carbonyl)phenyl]azetidin-3-yl}-3′-methyl-1H,1′H-4,4′-bipyrazole-3-carboxylate | C(#N)CC1(CN(C1)C1=C(C=C(C(=C1)F)C(=O)N[C@H](C(F)(F)F)C)F)N1N=C(C(=C1)C=1C(=NNC1)C)C(=O)OCC | C25H24F5N7O3
